US07989480B2
Methyl (2S)-2-[(tert-Butoxycarbonyl)amino]-3-[4-(4-phenoxyphenoxy)phenyl]Propanoate
To a solution of Boc-L-Tyrosine methyl ester (2.37 g, 8.0 mmol), 4-phenyoxyphenylboronic acid (2.57 g, 12.0 mmol) and pyridine (3.16 g) in CH2Cl2 (200 mL) was added copper(II) acetate (1.46 g, 8.0 mmol). After stirring at rt for 24 h, the reaction mixture was concentrated in vacuo. The remaining material was dissolved in EtOAc (200 mL) and this solution was washed with water (2×100 mL). The organic layer was concentrated in vacuo and the crude product was purified by chromatography (7:3 hexane/ethyl acetate) to give 2.39 g of product (64%). 1H NMR (400 MHz, CDCl3) δ 1.42 (s, 9H), 2.95-3.14 (m, 2H), 3.72 (s, 3H), 4.57 (q, J=7.2 Hz, 1H), 5.00 (br d, J=8.0 Hz, 1H), 6.90-7.11 (m, 11H), 7.30-7.36 (m, 2H).

reactant | Boc-L-Tyrosine methyl ester | 8.0 mmol, 2.37 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | 4-phenyoxyphenylboronic acid | 12.0 mmol, 2.57 g | C1(=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | pyridine | 3.16 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) acetate | 8.0 mmol, 1.46 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl (2S)-2-[(tert-Butoxycarbonyl)amino]-3-[4-(4-phenoxyphenoxy)phenyl]Propanoate | 2.39 g, 64% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1 | C27H29NO6
